US05026856
The procedure of Reference Example 6-(3) was followed using 10.2 g of 2-(p-toluenesulfonyl)-5-fluoroisoindoline, 10 g of phenol, 150 ml of 48% hydrobromic acid, and 25 ml of propionic acid. Purification of the crude product by vacuum distillation gave 5.0 mg of 5-fluoroisoindoline.

reactant | 2-(p-toluenesulfonyl)-5-fluoroisoindoline | 10.2 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)F)C | C15H14FNO2S
reactant | phenol | 10 g | C1(=CC=CC=C1)O | C6H6O
reactant | propionic acid | 25 ml | C(CC)(=O)O | C3H6O2
solvent | hydrobromic acid | 150 ml | Br | BrH
product | 5-fluoroisoindoline | 5.0 mg | FC=1C=C2CNCC2=CC1 | C8H8FN
